US07754728B2
2-Butoxyadenine
After sodium (13.56 g, 590 mmol) was dissolved in n-butanol (480 ml), 2-chloroadenine (4.0 g, 23.59 mmol) was added thereto and the mixture was stirred at 140° C. for 19 hours. After the mixture was allowed to cool, water (400 ml) was added thereto and the mixture was stirred for 30 minutes. And then the organic layer was separated and concentrated. Water (400 ml) was added to the residue and the solution was neutralized with concentrated hydrochloric acid. The resulting precipitate was filtered and washed with ethanol to give the captioned compound (3.72 g, 17.97 mmol, yield 76%) as a white solid.

reactant | sodium | 590 mmol, 13.56 g | [Na] | Na
reactant | 2-chloroadenine | 23.59 mmol, 4.0 g | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | water | 400 ml | O | H2O
reactant | n-butanol | 480 ml | C(CCC)O | C4H10O
product | 2-Butoxyadenine | 17.97 mmol, 3.72 g, yield 76% | C(CCC)OC1=NC(=C2NC=NC2=N1)N | C9H13N5O
